US20010047014A1
To a solution of 40.0 g (123 mmol) of 4-benzyl-4-hydroxy-piperidine-1-carboxylic acid benzyl ester in 250 ml CH2Cl2 were added 39.6 ml (492 mmol) pyridine and at 0° C. 17.8 ml (246 mmol) of SOCl2. The reaction mixture was stirred for 30 min. at 0° C. and then 250 ml of aqueous (2N) HCl were added. The aqueous phase was extracted twice with CH2Cl2 and the combined organic layers were washed with water, dried over MgSO4 and the solvent was removed under reduced pressure to give 36.3 g (118 mmol, 96%) of 4-benzyl-3,6-dihydro-2H-pyridine-1-carboxylic acid benzyl ester as an orange oil.

reactant | 4-benzyl-4-hydroxy-piperidine-1-carboxylic acid benzyl ester | 123 mmol, 40.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)(O)CC1=CC=CC=C1 | C20H23NO3
reactant | pyridine | 492 mmol, 39.6 ml | N1=CC=CC=C1 | C5H5N
reactant | SOCl2 | 246 mmol, 17.8 ml | O=S(Cl)Cl | Cl2OS
reactant | HCl | 2N | Cl | ClH
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyl-3,6-dihydro-2H-pyridine-1-carboxylic acid benzyl ester | 118 mmol, 36.3 g, 96% | C(C1=CC=CC=C1)OC(=O)N1CCC(=CC1)CC1=CC=CC=C1 | C20H21NO2
